US07192943B2
A solution of 1-benzyl 4-tert-butyl ((1S)-1-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamoyl}tetramethylene)biscarbamate (6.4 g) in methanol (100 ml) was treated with 10% palladium on carbon (1.0 g) under a hydrogen atmosphere at room temperature for 6 days. After the catalyst was filtered off, the filtrate was concentrated in vacuo. The residue was triturated with ether and dried in vacuo to give tert-butyl (4S)-4-amino-5-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-5-oxopentylcarbamate (2.2 g) as a solid.

reactant | 1-benzyl 4-tert-butyl ((1S)-1-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamoyl}tetramethylene)biscarbamate | 6.4 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)[C@H](CCCNC(OC(C)(C)C)=O)NC(OCC1=CC=CC=C1)=O | C41H46N6O5
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | tert-butyl (4S)-4-amino-5-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-5-oxopentylcarbamate | 2.2 g | N[C@@H](CCCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C33H40N6O3
